US07919491B2
2-[3,5-bis(trifluoromethyl)phenyl]-N-[6-(hexahydropyrazino[2,1-c][1,4]oxazin-8(1H)-yl)-4-(2-methylphenyl)-3-pyridinyl]-N,2-dimethylpropanamide (E85)
A solution of 2-[3,5-bis(trifluoromethyl)phenyl]-N-[6-chloro-4-(2-methylphenyl)-3-pyridinyl]-N,2-dimethylpropanamide [WO 2002/16324A1] (200 mg, 0.388 mmol), octahydropyrazino[2,1-c][1,4]oxazine (EP472826, 111 mg, 0.776 mmol), and potassium carbonate (161 mg, 1.165 mmol) in 1 mL of DMSO was heated to 150° C. for 47 h. It was worked up by diluting with dichloromethane and extracting with brine. The organics were dried (Na2SO4), and the solvent removed. The product was purified by flash chromatography: silica, dichloromethane to dichloromethane: MeOH 95:5. Obtained 92 mg of the title compound.

reactant | 2-[3,5-bis(trifluoromethyl)phenyl]-N-[6-chloro-4-(2-methylphenyl)-3-pyridinyl]-N,2-dimethylpropanamide | 0.388 mmol, 200 mg | FC(C=1C=C(C=C(C1)C(F)(F)F)C(C(=O)N(C)C=1C=NC(=CC1C1=C(C=CC=C1)C)Cl)(C)C)(F)F | C25H21ClF6N2O
reactant | octahydropyrazino[2,1-c][1,4]oxazine | 0.776 mmol, 111 mg | C1OCCN2C1CNCC2 | C7H14N2O
reactant | potassium carbonate | 1.165 mmol, 161 mg | C([O-])([O-])=O.[K+].[K+]
solvent | DMSO | 1 mL | CS(=O)C | C2H6OS
solvent | dichloromethane | ClCCl | CH2Cl2
product | 2-[3,5-bis(trifluoromethyl)phenyl]-N-[6-(hexahydropyrazino[2,1-c][1,4]oxazin-8(1H)-yl)-4-(2-methylphenyl)-3-pyridinyl]-N,2-dimethylpropanamide | 92 mg | FC(C=1C=C(C=C(C1)C(F)(F)F)C(C(=O)N(C)C=1C=NC(=CC1C1=C(C=CC=C1)C)N1CC2COCCN2CC1)(C)C)(F)F | C32H34F6N4O2
